US04360680
3-Amino-1-phenyl-2-pyrazoline
A 2.0 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 40.0 ml. of phenylhydrazine is added followed by 26.0 ml. of acrylonitrile. The reaction mixture is refluxed for 3 hours with exothermic crystallization of a product. The product is collected by filtration and washed with 95% ethanol. The material is recrystallized from dichloromethane-benzene to give 43.6 g. of the desired product as a solid, m.p. 168°-170.5° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-phenyl-2-pyrazoline | NC1=NN(CC1)C1=CC=CC=C1 | C9H11N3
